US08975254B2
a) (R)-2-(1-hydroxypropan-2-yl)isoindoline-1,3-dione
D-Alaninol (3.90 ml, 50 mmol) and phthalic anhydride (7.41 g, 50 mmol) were heated at 160° C. for 30 min. To cooled reaction mixture was added ice water and DCM. Organic phase was collected and the water phase was extracted with DCM. Combined organic phases were dried over Na2SO4 and evaporated to obtain 8.75 g (85%) of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 1.32 (d, 3H), 3.54 (m, 1H), 3.84 (m, 1H), 4.26 (m, 1H), 4.91 (m, 1H), 7.84 (m, 4H).

reactant | D-Alaninol | 50 mmol, 3.90 ml | N[C@H](C)CO | C3H9NO
reactant | phthalic anhydride | 50 mmol, 7.41 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (R)-2-(1-hydroxypropan-2-yl)isoindoline-1,3-dione | 8.75 g, 85% | OC[C@@H](C)N1C(C2=CC=CC=C2C1=O)=O | C11H11NO3
